US06331538B1
3-Benzyloxy-1-cyclopropyl-6-fluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione
A solution of 3-benzyloxy-7-chloro-1-cyclopropyl-6-fluoro-1H-quinazoline-2,4-dione (Example E-3, 0.15 g, 0.42 mmol) in DMF (4.0 mL) was reacted with pyrrolidine (1.0 mL) and heated to 70° C. overnight. The mixture was then cooled, diluted with 0.25 M HCl, and extracted with ethyl acetate. The organic layers were combined, dried with sodium sulfate, and concentrated. The residue was then purified by column chromatography (silica gel, 1:1 hexanes/ethyl acetate) to provide 0.15 g of the title compound as a solid.

reactant | 3-benzyloxy-7-chloro-1-cyclopropyl-6-fluoro-1H-quinazoline-2,4-dione | 0.42 mmol, 0.15 g | C(C1=CC=CC=C1)ON1C(N(C2=CC(=C(C=C2C1=O)F)Cl)C1CC1)=O | C18H14ClFN2O3
reactant | pyrrolidine | 1.0 mL | N1CCCC1 | C4H9N
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | HCl | 0.25 M | Cl | ClH
product | 3-Benzyloxy-1-cyclopropyl-6-fluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.15 g | C(C1=CC=CC=C1)ON1C(N(C2=CC(=C(C=C2C1=O)F)N1CCCC1)C1CC1)=O | C22H22FN3O3
